US08809333B2
To a solution of (2R)-2-methyl-2-(methylsulfonyl)-4-{4-[4-(1,3-oxazol-2-yl)phenyl]-1H-pyrazol-1-yl}butanoic acid (0.125 g, 0.321 mmol) in 2-methyltetrahydrofuran (20 mL) was added n-methyl morpholine (0.046 g, 0.449 mmol, 1.4 eq), followed by CDMT (0.068 g, 0.385 mmol, 1.2 eq). The reaction was allowed to stir for one hour. O-Tetrahydro-2H-pyran-2-yl-hydroxylamine (0.045 g, 0.385 mmol, 1.2 eq) was added, and the reaction mixture was allowed to stir for an additional two hours. Water (20 mL) was added, and the solution was extracted with 2-MeTHF (100 mL). The aqueous layer was re-extracted with 2-MeTHF (150 mL) and the combined organic layers were washed with brine. The organic layer was dried over sodium sulfate, filtered, and concentrated in vacuo. The crude material was purified by flash chromatography, eluting with 50%-100% ethyl acetate/heptane to yield (2R)-2-methyl-2-(methylsulfonyl)-4-{4-[4-(1,3-oxazol-2-yl)phenyl]-1H-pyrazol-1-yl}-N-(tetrahydro-2H-pyran-2-yloxy)butanamide (31 mg, 20% yield) as a colorless oil. LC-MS M−H 487.5.

reactant | (2R)-2-methyl-2-(methylsulfonyl)-4-{4-[4-(1,3-oxazol-2-yl)phenyl]-1H-pyrazol-1-yl}butanoic acid | 0.321 mmol, 0.125 g | C[C@](C(=O)O)(CCN1N=CC(=C1)C1=CC=C(C=C1)C=1OC=CN1)S(=O)(=O)C | C18H19N3O5S
reactant | n-methyl morpholine | 0.449 mmol, 0.046 g, 1.4 eq | CN1CCOCC1 | C5H11NO
reactant | O-Tetrahydro-2H-pyran-2-yl-hydroxylamine | 0.385 mmol, 0.045 g, 1.2 eq | O1C(CCCC1)ON | C5H11NO2
reactant | Water | 20 mL | O | H2O
solvent | 2-methyltetrahydrofuran | 20 mL | CC1OCCC1 | C5H10O
product | (2R)-2-methyl-2-(methylsulfonyl)-4-{4-[4-(1,3-oxazol-2-yl)phenyl]-1H-pyrazol-1-yl}-N-(tetrahydro-2H-pyran-2-yloxy)butanamide | 31 mg, 20% yield | C[C@](C(=O)NOC1OCCCC1)(CCN1N=CC(=C1)C1=CC=C(C=C1)C=1OC=CN1)S(=O)(=O)C | C23H28N4O6S
